US09163011B2
b) (S)-2-Methyl-propane-2-sulfinic acid [1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-3-methoxy-prop-(E)-ylidene]-amide
A mixture of titantetraethoxide (11.03 g, 48.4 mmol), (S)-tert.-butylsulfinamide (3.52 g, 29 mmol) and 1-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-3-methoxy-propan-1-one (9.1 g, 24.18 mmol) in THF (100 ml) was stirred at 60° C. under a nitrogen atmosphere for 34 hours. The cold reaction mixture was diluted with ethyl acetate and poured onto icecold brine (200 ml) with gentle stirring. The precipitate was filtered through a pad of hyflo and washed with ethyl acetate. The filtrate was diluted with ethyl acetate and washed with brine, dried over sodium sulfate, filtered and evaporated. The crude yellowish-brown oil (10.67 g) was chromatographed over silica gel (Redisep column 120 g, cyclohexane/ethyl acetate 95:5) to give the title compound as a yellow-orange oil. 7.51 g (63.5% yield).

reactant | (S)-tert.-butylsulfinamide | 29 mmol, 3.52 g | C(C)(C)(C)[S@](=O)N | C4H11NOS
reactant | 1-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-3-methoxy-propan-1-one | 24.18 mmol, 9.1 g | BrC1=CC(=C(C(=N1)C(CCOC)=O)F)[Si](CC)(CC)CC | C15H23BrFNO2Si
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | 200 ml | [Cl-].[Na+].O
product | (S)-2-Methyl-propane-2-sulfinic acid [1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-3-methoxy-prop-(E)-ylidene]-amide | 63.5% yield | BrC1=CC(=C(C(=N1)\C(\CCOC)=N\[S@@](=O)C(C)(C)C)F)[Si](CC)(CC)CC | C19H32BrFN2O2SSi
